* source OSCILATOR_TRIUNGHIULAR
.EXTERNAL OUTPUT -VCC
.EXTERNAL OUTPUT +VCC
R_Rv_500k         N235484 N235506 {430k*0.5+.001}
Q_Q16         N235492 N235572 N235878 QBC817-25 
Q_Q13         N235572 N235572 N235798 QBC817-25 
Q_Q9         N235828 N235828 N236430 QBC856B 
C_C3         N236660 0  2.2n  TC=0,0 
R_R2         N235496 N235492  510k TC=0,0 
R_R6         N236154 -VCC  51 TC=0,0 
R_R12         +VCC N235572  47k TC=0,0 
D_D2         N235728 +VCC BZX84-C2V7 
R_RL1         N236660 N2362081  1k TC=0,0 
R_R13         N235798 -VCC  51 TC=0,0 
R_RL2         N2362081 0  22k TC=0,0 
Q_Q12         N235852 N236032 N235856 QBC817-25 
D_D1         -VCC N235496 BZX84-C2V7 
R_Rv1_5k         N235718 +VCC {3k*0.5+.001}
R_R10         +VCC N236430  51 TC=0,0 
Q_Q8         N235598 N235572 N236384 QBC817-25 
R_Rv2_5k         -VCC N235488 {2k*0.5+.001}
Q_Q11         N235828 N235506 N235856 QBC817-25 
R_R14         N236496 -VCC  51 TC=0,0 
Q_Q3         N235188 N235728 N235718 QBC807-25 
R_R1         N235492 N235728  510k TC=0,0 
Q_Q14         N235856 N235572 N236496 QBC817-25 
V_+VCC         +VCC 0 14
Q_Q10         N235852 N235828 N236458 QBC856B 
Q_Q15         N235492 N235852 +VCC QBC856B 
R_R4         +VCC N235532  51 TC=0,0 
Q_Q6         N235506 N235188 N236154 QBC817-25 
R_R16         N236032 0  100k TC=0,0 
Q_Q5         N235188 N235188 N236144 QBC817-25 
R_R17         N236032 N235492  10k TC=0,0 
Q_Q7         +VCC N235484 N235598 QBC817-25 
Q_Q1         N235528 N235528 N236654 QBC807-25 
V_-VCC         0 -VCC 14
Q_Q2         N235506 N235528 N235532 QBC807-25 
R_R15         N235878 -VCC  51 TC=0,0 
R_R9         N236384 -VCC  51 TC=0,0 
R_R7         0 N235484  47k TC=0,0 
R_R5         N236144 -VCC  51 TC=0,0 
R_R3         +VCC N236654  51 TC=0,0 
C_C2         N236660 N235598  1u  TC=0,0 
C_C1         0 N235506  10n  TC=0,0 
R_R11         +VCC N236458  51 TC=0,0 
Q_Q4         N235528 N235496 N235488 QBC817-25 
